US08877805B2
Step 2. Synthesis of 5-[5-(benzyloxycarbonyl)furan-2-yl]-4-tert-butoxycarbonyl-4-pentenoic acid ethyl ester
2-{[5-(Benzyloxycarbonyl)furan-2-yl](hydroxy)methyl}prop-2-enoic acid tert-butyl ester (90 mg, 0.25 mmol) was dissolved in ethyl orthoformate (2.0 ml, 10.9 mmol), propanoic acid (8 mg, 0.10 mmol) was added, and the mixture was stirred at 138° C. for 5 hours. The mixture was purified by silica gel column chromatography to give the title compound.

reactant | 2-{[5-(Benzyloxycarbonyl)furan-2-yl](hydroxy)methyl}prop-2-enoic acid tert-butyl ester | 0.25 mmol, 90 mg | C(C)(C)(C)OC(C(=C)C(O)C=1OC(=CC1)C(=O)OCC1=CC=CC=C1)=O | C20H22O6
reactant | ethyl orthoformate | 10.9 mmol, 2.0 ml | C(OCC)([O-])[O-]
reactant | propanoic acid | 0.10 mmol, 8 mg | C(CC)(=O)O | C3H6O2
product | 5-[5-(benzyloxycarbonyl)furan-2-yl]-4-tert-butoxycarbonyl-4-pentenoic acid ethyl ester | C(C)OC(CCC(=CC=1OC(=CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C24H28O7
